US09029392B2
8-Chloro-2-(pyrazin-2-yl)quinoline-3-carbaldehyde
A mixture of 2,8-dichloroquinoline-3-carbaldehyde (2.3 g, 10.18 mmol), 2-(tributylstannanyl)pyrazine (4.5 g, 12.2 mmol) and tetrakis(triphenylphosphine)-palladium(0) (0.4 g, 0.35 mmol) in 1,4-dioxane (25 mL) was degassed and the mixture was heated under nitrogen at 110° C. for 5 h. The mixture was allowed to cool to room temperature overnight and the solidified product was collected by filtration and washed repeatedly with ether. The filtrate was concentrated and left in a refrigerator for 2 h to give a second crop, which was filtered, washed with ether and combined with the bulk material to give the title compound (2.74 g, 99%) as a yellow crystalline solid. LCMS (ES+) 270 (M+H)+, RT 1.41 minutes.

reactant | 2,8-dichloroquinoline-3-carbaldehyde | 10.18 mmol, 2.3 g | ClC1=NC2=C(C=CC=C2C=C1C=O)Cl | C10H5Cl2NO
reactant | 2-(tributylstannanyl)pyrazine | 12.2 mmol, 4.5 g | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)-palladium(0) | 0.35 mmol, 0.4 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-Chloro-2-(pyrazin-2-yl)quinoline-3-carbaldehyde | 2.74 g, 99% | ClC=1C=CC=C2C=C(C(=NC12)C1=NC=CN=C1)C=O | C14H8ClN3O
